US08664210B2
(E)-3-[3-(R)-Pyrrolidinyl]oxyimino-2α-fluoroandrostan-17-one hydrochloride (I-bh)
2α-Fluoroandrostane-3,17-dione (315 mg) and 3-(R)-pyrrolidinyloxyamine dihydrochloride (Preparation 12, 190 mg) were dissolved in pyridine (5 ml) and stirred at RT for 1 h. After evaporation of the solvent, the crude reaction mixture was purified by flash chromatography (SiO2, CHCl3/MeOH/26% NH4OH 90/10/1). To the resulting oil obtained after fractions evaporation, dissolved in a 1/1 mixture of EtOAc/Et2O (20 ml) and cooled with an ice bath, an excess of 2N HCl solution in Et2O was added. The title compound I-bh was obtained, after filtration, as a white solid in 91% yield.

reactant | 2α-Fluoroandrostane-3,17-dione | 315 mg | F[C@H]1C(CC2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C1)C)=O)=O | C19H27FO2
reactant | 3-(R)-pyrrolidinyloxyamine dihydrochloride | 190 mg | Cl.Cl.N1C[C@@H](CC1)ON
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | (E)-3-[3-(R)-Pyrrolidinyl]oxyimino-2α-fluoroandrostan-17-one hydrochloride | 91% yield | Cl.N1C[C@@H](CC1)O\N=C\1/CC2CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(C[C@H]1F)C)=O | InChI=1S/C23H35FN2O2.ClH/c1-22-9-7-18-16(17(22)5-6-21(22)27)4-3-14-11-20(19(24)12-23(14,18)2)26-28-15-8-10-25-13-15;/h14-19,25H,3-13H2,1-2H3;1H/b26-20+;/t14?,15-,16+,17+,18+,19-,22+,23+;/m1./s1
